US06472394B1
6-Methylbenzoxazole was reacted with NBS (1 eq) and catalytic amount of benzoyl peroxide in CCl4 at 90° C. for 12 h to obtain 6-bromomethylbenzoxazole which was purified by flash chromatography (EtOAc:Hexane=1:5).

reactant | 6-Methylbenzoxazole | CC1=CC2=C(N=CO2)C=C1 | C8H7NO
reactant | NBS | 1 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-bromomethylbenzoxazole | BrCC1=CC2=C(N=CO2)C=C1 | C8H6BrNO
